US06544985B2
rac-3-(2-Bromo-propionyl)-benzoic acid methyl ester (5.42 g) and formamide (3.6 ml) were heated together to 130° C. for 5 h. The mixture was partitioned between AcOEt and brine, the organic layer was dried and evaporated and the residual oil was chromatographed on silica gel using AcOEt/hexane (1:4) as eluent to give 3-(5-methyl-oxazol-4-yl)-benzoic acid methyl ester (2.52 g) as white solid.

reactant | rac-3-(2-Bromo-propionyl)-benzoic acid methyl ester | 5.42 g | COC(C1=CC(=CC=C1)C(C(C)Br)=O)=O | C11H11BrO3
reactant | formamide | 3.6 ml | C(=O)N | CH3NO
product | 3-(5-methyl-oxazol-4-yl)-benzoic acid methyl ester | 2.52 g | COC(C1=CC(=CC=C1)C=1N=COC1C)=O | C12H11NO3
